### PR TITLE
refactor: redefine using `Player`  and some initial golfing

### PR DESCRIPTION
**Pull request by astrainfinita**

### CODE REVIEW

File: CombinatorialGames/Game/Functor.lean [hunk 1]
```diff
@@ -36,6 +37,47 @@ functor.
 
 universe u
 
+inductive Player where
+  | left  : Player
+  | right : Player
```
Comment (vihdzp) [inline CombinatorialGames/Game/Functor.lean]: This should have docstrings (even if they're really simple ones)
```suggestion
/-- Either the Left or Right player. -/
inductive Player where
  /-- The Left player. -/
  | left  : Player
  /-- The Right player. -/
  | right : Player
```

File: CombinatorialGames/Game/Functor.lean [hunk 2]
```diff
@@ -36,6 +37,47 @@ functor.
...
+
+namespace Player
+
+protected lemma «forall» {p : Player → Prop} :
```
Comment (vihdzp) [inline CombinatorialGames/Game/Functor.lean:50]: Does it make sense for this (and `exists`) to be `simp` lemmas?

File: CombinatorialGames/Game/IGame.lean [hunk 3]
```diff
@@ -507,8 +519,12 @@ theorem leftMoves_neg (x : IGame) : (-x).leftMoves = -x.rightMoves := by
 theorem rightMoves_neg (x : IGame) : (-x).rightMoves = -x.leftMoves := by
   refine ofSetsRecOn x ?_; simp
 
+theorem moves_neg (p : Player) (x : IGame) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:521]: Should this be `simp` too?

File: CombinatorialGames/Game/IGame.lean [hunk 4]
```diff
@@ -507,8 +519,12 @@ theorem leftMoves_neg (x : IGame) : (-x).leftMoves = -x.rightMoves := by
...
+    (-x).moves p = -x.moves (-p) := by
+  cases p with | _ => simp
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: (This suggestion applies like five separate times)
```suggestion
  cases p <;> simp
```

File: CombinatorialGames/Game/IGame.lean [hunk 5]
```diff
@@ -1050,11 +1082,34 @@ theorem exists_rightMoves_mul {P : IGame → Prop} {x y : IGame} :
       (∃ a ∈ x.rightMoves, ∃ b ∈ y.leftMoves, P (mulOption x y a b)) := by
   aesop
 
+theorem moves_mul (p : Player) (x y : IGame) :
+    (x * y).moves p = (fun a ↦ mulOption x y a.1 a.2) ''
+      (x.leftMoves ×ˢ y.moves p ∪ x.rightMoves ×ˢ y.moves (-p)) := by
+  cases p with | _ => simp
+
+theorem moves_mulOption (p : Player) (x y a b : IGame) :
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean:1080]: The idea behind `leftMoves_mulOption` and `rightMoves_mulOption` is that `simp` should be able to unfold `mulOption` in those contexts. Since this lemma isn't tagged `simp`, I don't think that it's needed.

File: CombinatorialGames/Game/IGame.lean [hunk 6]
```diff
@@ -1050,11 +1082,34 @@ theorem exists_rightMoves_mul {P : IGame → Prop} {x y : IGame} :
...
+    (∃ a ∈ (x * y).moves p, P a) ↔
+      (∃ p', ∃ a ∈ x.moves p', ∃ b ∈ y.moves (p' * p), P (mulOption x y a b)) := by
+  rw [Player.exists]; cases p <;> aesop
+
 private theorem zero_mul' (x : IGame) : 0 * x = 0 := by
   ext <;> simp
 
 private theorem one_mul' (x : IGame) : 1 * x = x := by
-  refine moveRecOn x fun _ _ _ ↦ ?_
+  refine ofSetsRecOn x fun _ _ _ ↦ ?_
```
Comment (vihdzp) [inline CombinatorialGames/Game/IGame.lean]: Does this work?
```suggestion
  refine ofSetsRecOn x ?_
```

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 7]
```diff
@@ -33,20 +33,24 @@ as we don't require `x = -x`. Despite this, the Sprague-Grundy theorem still hol
 
 In such a game, both players have the same payoffs at any subposition. -/
 @[mk_iff impartial_iff_aux]
-class Impartial (x : IGame) : Prop where
+class Impartial (x : IGame) : Prop where of_ImpartialAux ::
```
Comment (vihdzp) [inline CombinatorialGames/Game/Impartial/Basic.lean:36]: Thank you! I wasn't aware you could change the default constructor name.

File: CombinatorialGames/Game/Special.lean [hunk 8]
```diff
@@ -44,7 +44,7 @@ theorem zero_fuzzy_star : 0 ‖ ⋆ := ⟨star_lf_zero, zero_lf_star⟩
 
 @[simp] theorem star_mul_star : ⋆ * ⋆ = ⋆ := by ext <;> simp [mulOption]
 
-@[simp] instance : Short ⋆ := by rw [short_def]; simp
+@[simp] instance : Short ⋆ := by rw [short_def']; simp
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]: If `Player.forall` was tagged `simp`, you wouldn't need to use the primed variant a lot of the time.

File: CombinatorialGames/Game/Special.lean [hunk 9]
```diff
@@ -80,7 +80,7 @@ recommended_spelling "up" for "↑" in [«term↑»]
 theorem up_fuzzy_star : ↑ ‖ ⋆ := by game_cmp
 theorem star_fuzzy_up : ⋆ ‖ ↑ := up_fuzzy_star.symm
 
-instance : Short ↑ := by rw [short_def]; simp
+instance : Short ↑ := by rw [short_def, Player.forall]; simp
```
Comment (vihdzp) [inline CombinatorialGames/Game/Special.lean]:
```suggestion
instance : Short ↑ := by rw [short_def']; simp
```

File: CombinatorialGames/Game/Specific/Nim.lean [hunk 10]
```diff
@@ -139,7 +139,7 @@ theorem neg_nim (o : Nimber) : -nim o = nim o := by
 termination_by o
 
 protected instance Impartial.nim (o : Nimber) : Impartial (nim o) := by
-  apply Impartial.mk' (by simp)
+  apply Impartial.mk (by simp)
```
Comment (vihdzp) [inline CombinatorialGames/Game/Specific/Nim.lean]: Does this work?
```suggestion
  apply .mk (by simp)
```

File: CombinatorialGames/Surreal/Basic.lean [hunk 11]
```diff
@@ -81,6 +81,7 @@ protected theorem of_mem_rightMoves [h : Numeric x] (hy : y ∈ x.rightMoves) :
   (numeric_def.1 h).2.2 y hy
 
 protected theorem isOption [Numeric x] (h : IsOption y x) : Numeric y := by
```
Comment (vihdzp) [inline CombinatorialGames/Surreal/Basic.lean:84]: `Numeric` should probably be redefined in terms of `IGame.moves`, you might want to leave a TODO in there.

**Review by vihdzp — APPROVED** [review]
This is awesome! One of those PRs that really justifies its own existence, I think. Some minor notes/remarks.

File: CombinatorialGames/Game/Functor.lean (hunk 2 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/Functor.lean:50]: I remember that `simp` was removed from some `.forall` and `.exists` lemmas for some reason. But it works fine here.

File: CombinatorialGames/Game/IGame.lean (hunk 3 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/IGame.lean:521]: I was planning to mark it as `simp` in a further refactoring. But it's fine to make the change now.

File: CombinatorialGames/Game/IGame.lean (hunk 5 above)
Comment (astrainfinita) [reply CombinatorialGames/Game/IGame.lean:1080]: I was planning to remove the `left` and `right` versions in the future and make this lemma `simp`. But seems they can be removed now.
